US04358593
An acylating agent, in acid chloride form, was prepared by combining 26.3 g. of 4-(2-piperidinoethoxy)benzoic acid, hydrochloride, 36.5 g. of thionyl chloride and 1 drop of dimethylformamide in 200 ml. of 1,2-dichloroethane, and stirring the mixture under reflux for 2 hours under a nitrogen atmosphere. The mixture was then evaporated to dryness under vacuum to obtain the desired 4-(2-piperidinoethoxy)benzoyl chloride, hydrochloride, which was dissolved in 1 liter of 1,2-dichloroethane. To the solution was added 20 g. of 6-acetoxy-2-(4-acetoxyphenyl)benzo[b]thiophene and the mixture was stirred vigorously. To it was then added, over about 3 minutes, 73.4 g. of aluminum chloride. During the addition, the reaction mixture turned dark brown and hydrogen chloride evolved. The mixture was then stirred for one hour, and was poured over 1 liter of ice-water. The layers were separated, and the aqueous layer was extracted three times with 200 ml. portions of warm chloroform. The organic layers were combined and dried over magnesium sulfate, and were then filtered and evaporated under vacuum to obtain a brownish-yellow oil, which was not purified. The presence of the desired product was confirmed by thin layer chromatography (TLC) on silica gel, eluting with 9/1 chloroform/methanol, which showed that the major constituent ran at the same Rf as authentic 6-acetoxy-2-(4-acetoxyphenyl)-3-[4-(2-piperidinoethoxy)benzoyl]benzo[b]thiophene.

reactant | 4-(2-piperidinoethoxy)benzoic acid, hydrochloride | Cl.N1(CCCCC1)CCOC1=CC=C(C(=O)O)C=C1
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
catalyst | dimethylformamide | 1 drop | CN(C=O)C | C3H7NO
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
product | 4-(2-piperidinoethoxy)benzoyl chloride, hydrochloride | Cl.N1(CCCCC1)CCOC1=CC=C(C(=O)Cl)C=C1 | InChI=1S/C14H18ClNO2.ClH/c15-14(17)12-4-6-13(7-5-12)18-11-10-16-8-2-1-3-9-16;/h4-7H,1-3,8-11H2;1H
